### PR TITLE
[Merged by Bors] - feat(RepresentationTheory/*): `Rep.diagonal k G (n + 1) ≅ Rep.free k G (Fin n → G) `

### PR DESCRIPTION
**Pull request by 101damnations**
The first of 2 PRs refactoring group cohomology to use the bar resolution. Given a comm ring `k` and a group `G`, the bar resolution is the projective resolution of `k` as a trivial `G`-representation whose `n`th object is `Gⁿ →₀ k[G]`, with representation defined pointwise by the left regular representation on k[G], and whose differentials send `(g₀, ..., gₙ)` to `g₀·(g₁, ..., gₙ) + ∑ (-1)ʲ⁺¹·(g₀, ..., gⱼgⱼ₊₁, ..., gₙ) + (-1)ⁿ⁺¹·(g₀, ..., gₙ₋₁)` for `j = 0, ... , n - 1`.
The refactor means we can reuse this material to set up group homology. 

This PR defines an isomorphism between the objects in the standard resolution and the bar resolution, i.e. an isomorphism of representations `k[Gⁿ⁺¹] ≅ (Gⁿ →₀ k[G])`, called `Rep.diagonalSuccIsoFree`.

Moves:
- groupCohomology.resolution.actionDiagonalSucc -> Action.diagonalSuccIsoTensorTrivial
- groupCohomology.resolution.diagonalSucc -> Rep.diagonalSuccIsoTensorTrivial

---

- [x] depends on: #21652 
- [x] depends on: #21732 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RepresentationTheory/Rep.lean [hunk 1]
```diff
@@ -278,62 +285,228 @@ variable {k G}
...
+`single (g₀, ..., gₙ) a ↦ single (g₀⁻¹g₁, ..., gₙ₋₁⁻¹gₙ) (single g₀ a)`. -/
+def diagonalSuccIsoFree : diagonal k G (n + 1) ≅ free k G (Fin n → G) :=
+  diagonalSuccIsoTensorTrivial k G n ≪≫ leftRegularTensorTrivialIsoFree k G (Fin n → G)
+
+@[simp]
+theorem diagonalSuccIsoFree_hom_hom_single (f : Fin (n + 1) → G) (a : k) :
+    (diagonalSuccIsoFree k G n).hom.hom (single f a) =
+      single (fun i => (f i.castSucc)⁻¹ * f i.succ) (single (f 0) a) := by
+  have := diagonalSuccIsoTensorTrivial_hom_hom_single f a
+  have := leftRegularTensorTrivialIsoFree_hom_hom_single_tmul_single
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Rep.lean:487]: So from reading the code my understanding is that these lemmas aren't going to be simp lemmas. Why can't they be? This is beyond my comprehension -- is it something to do with wanting the lemmas not to look really ugly?

File: Mathlib/RepresentationTheory/Rep.lean [hunk 2]
```diff
@@ -469,11 +473,99 @@ end
...
+    DFunLike.coe (F := ((Fin (n + 1) → G) →₀ k) →ₗ[k]
+      ↑(ModuleCat.of k (G →₀ k) ⊗ ModuleCat.of k ((Fin n → G) →₀ k)))
+    (diagonalSuccIsoTensorTrivial k G n).hom.hom.hom (single f a) =
+      single (f 0) 1 ⊗ₜ single (fun i => (f (Fin.castSucc i))⁻¹ * f i.succ) a := by
+  simp [diagonalSuccIsoTensorTrivial, instMonoidalCategoryStruct_whiskerLeft, tensorObj_def,
+    ModuleCat.MonoidalCategory.whiskerLeft, instMonoidalCategoryStruct_tensorObj,
+    ModuleCat.MonoidalCategory.tensorObj, finsuppTensorFinsupp'_symm_single_eq_single_one_tmul,
+    ModuleCat.hom_id (M := ((linearization k G).obj _).V), Action.ofMulAction_V]
+
+theorem diagonalSuccIsoTensorTrivial_inv_hom_single_single (g : G) (f : Fin n → G) (a b : k) :
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Rep.lean:508]: There is some confusion about why these don't fire as simp lemmas

**Comment by kbuzzard** [comment]
!bench

**Comment by jcommelin** [comment]
Thanks a lot for your work on representation theory!

bors merge
